US07884244B2
3-(2-fluoro-phenyl)-acrylic acid (10.00 g, 60.30 mmol) in THF was mixed with Rh/Al2O3 (500 mg) and hydrogenated for 14 hours. The reaction mixture was filtered through celite and the filtrate was concentrated to give 3-(2-fluoro-phenyl)-propionic acid. 3-(2-chloro-phenyl)-propionic acid (10.0 g, 43.70 mmol) was then reacted with SOCl2 (6.60 mL, 90.48 mmol) and AlCl3 (9.00 g, 67.50 mmol) according to the protocols as outlined in general procedure C to afford the title compound. vi Musso, David L.; Cochran, Felicia R.; Kelley, James L.; McLean, Ed W.; Selph, Jeffrey L.; Rigdon, Greg C.; Orr, G. Faye; Davis, Ronda G.; Cooper, Barrett R.; Styles, Virgil L.; Thompson, James B.; Hall, William R. J. Med. Chem. 2003, 46, 399-408.

reactant | 3-(2-fluoro-phenyl)-acrylic acid | 60.30 mmol, 10.00 g | FC1=C(C=CC=C1)C=CC(=O)O | C9H7FO2
solvent | THF | C1CCOC1 | C4H8O
catalyst | Rh/Al2O3 | 500 mg | [Rh] | Rh
product | 3-(2-fluoro-phenyl)-propionic acid | FC1=C(C=CC=C1)CCC(=O)O | C9H9FO2
